US04210648
5,11-Dihydro-11-(3-piperidinopropionyl)-6H-pyrido [2,3-b][1,4]-benzodiazepin-6-one
4.9 gm of 11-acryloyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one were after addition of 15 ml of piperidine, refluxed in 150 ml of dioxane for 2 hours. The solvent and excess amine were then distilled off in vacuo, and the residue was recrystallized from n-propanol.

reactant | 11-acryloyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 4.9 gm | C(C=C)(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O2
reactant | piperidine | 15 ml | N1CCCCC1 | C5H11N
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5,11-Dihydro-11-(3-piperidinopropionyl)-6H-pyrido [2,3-b][1,4]-benzodiazepin-6-one | N1(CCCCC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C20H22N4O2
